US07521448B2
5-(2-{4-[5-(Pyridin-3-ylmethylaminocarbonyl)-1H-benzimidazol-1-yl]phenoxy}ethoxy)nicotinic acid
An aqueous solution of sodium hydroxide (0.107 mmol, 43 μL, 100 mg/mL) was added to methyl 5-(2-{4-[5-(pyridin-3-ylmethylaminocarbonyl)-1H-benzimidazol-1-yl]phenoxy}ethoxy)nicotinate (prepared according to the procedure described above utilising methyl 5-hydroxynicotinate in place of 3-hydroxypyridine, 37 mg, 0.07 mmol) in methanol and the mixture heated at reflux for 18 h. The mixture was then concentrated in vacuo and purified by preparative HPLC to yield the title compound. 1H NMR (d6-DMSO, 400 MHz): δ 9.15 (t, J=6.0 Hz, 1H), 8.64 (s, 1H), 8.60-8.50 (m, 2H), 8.40-8.39 (m, 2H), 8.38 (d, J=1.6 Hz, 1H), 8.35 (s, 1H), 7.87 (dd, J=8.4, 1.6 Hz, 1H), 7.78 (s, 1H), 7.73 (d, J=7.6 Hz, 1H), 7.59 (dd, J=12.4, 8.8 Hz, 3H), 7.35 (dd, J=7.6, 5.2 Hz, 1H), 7.23 (d, J=8.8 Hz, 2H), 4.51 (d, J=6.0 Hz, 2H), 4.50-4.4 (m, 4H); MS (ES+): m/z 510 [MH+], 511 [MH+2].

reactant | sodium hydroxide | 0.107 mmol, 43 μL | [OH-].[Na+]
reactant | methyl 5-(2-{4-[5-(pyridin-3-ylmethylaminocarbonyl)-1H-benzimidazol-1-yl]phenoxy}ethoxy)nicotinate | N1=CC(=CC=C1)CNC(=O)C1=CC2=C(N(C=N2)C2=CC=C(OCCOC=3C=NC=C(C(=O)OC)C3)C=C2)C=C1 | C29H25N5O5
reactant | methyl 5-hydroxynicotinate | OC=1C=NC=C(C(=O)OC)C1 | C7H7NO3
solvent | methanol | CO | CH4O
product | 5-(2-{4-[5-(Pyridin-3-ylmethylaminocarbonyl)-1H-benzimidazol-1-yl]phenoxy}ethoxy)nicotinic acid | N1=CC(=CC=C1)CNC(=O)C1=CC2=C(N(C=N2)C2=CC=C(OCCOC=3C=NC=C(C(=O)O)C3)C=C2)C=C1 | C28H23N5O5
